US05723075
1,4-di(benzoylthiocarbamoylamino)-2,5-dimethylbenzene
2,5-Dimethyl-p-phenylenediamine (0.340 g, 2.5 mM) was dissolved in 30 ml of ethyl acetate, and 2 equivalents of benzoylisothiocyanate (0.816 g, 5 mM) were added. The mixture was stirred at room temperature for 10 minutes. After cooling, the reaction mixture was filtered, and washed with ethyl acetate/n-hexane to obtain 1.14 g (98.6% yield) of a colorless crystal of compound A-26.

reactant | 2,5-Dimethyl-p-phenylenediamine | 2.5 mM, 0.340 g | CC1=C(C=C(C(=C1)N)C)N | C8H12N2
reactant | benzoylisothiocyanate | 5 mM, 0.816 g, 2 equivalents | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1,4-di(benzoylthiocarbamoylamino)-2,5-dimethylbenzene | 1.14 g, 98.6% yield | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=C(C(=C1)C)NC(NC(C1=CC=CC=C1)=O)=S)C | C24H22N4O2S2
